US06262059B1
a) 2-(4-ethoxycarbonylpiperidino)-8-(3,4-methylenedioxybenzylamino)pyrido[2,3-d]pyrimidine
41 mg of triethylamine and 190 mg of ethyl isonipecotate were added to a solution of 127 mg of 2-chloro-8-(3,4-methylenedioxybenzyl)aminopyrido[2,3-d]pyrimidine in 8 ml of tetrahydrofuran. The obtained mixture was refluxed for 2 hours, followed by the addition of water. The resulting mixture was extracted with chloroform twice. The organic layers were combined, dried over magnesium sulfate, and distilled to remove the solvent. The residue was purified by silica gel chromatography (with ethyl acetate) to give 175 mg of the title compound (in a yield of 100%).

reactant | triethylamine | 41 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl isonipecotate | 190 mg | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | 2-chloro-8-(3,4-methylenedioxybenzyl)aminopyrido[2,3-d]pyrimidine | 127 mg | ClC=1N=CC2=C(N1)N(CC=C2)NCC2=CC1=C(C=C2)OCO1 | C15H13ClN4O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 2-(4-ethoxycarbonylpiperidino)-8-(3,4-methylenedioxybenzylamino)pyrido[2,3-d]pyrimidine | 175 mg, yield of 100% | C(C)OC(=O)C1CCN(CC1)C=1N=CC2=C(N1)N(CC=C2)NCC2=CC1=C(C=C2)OCO1 | C23H27N5O4
